US07288543B2
2-Bromo-4-[(3-methyl-butylamino)-methyl]-phenol
Combine 3-Bromo-4-hydroxy-benzaldehyde (1.5 g, 7.5 mmol) with 3-methylbutylamine (867 μL, 7.5 mmol), MeOH (25 mL) and molecular sieves 3A (5.8 g) and stir at room temperature overnight. Add NaBH4 (1.4 g, 37.3 mmol) and stir at room temperature for 2 hours. Filtrate over celite with MeOH and eliminate the solvent. Purify by SCX ion-exchange chromatography to afford the title compound (1.5 g, 75%). 1H-NMR (CD3OD, 300 MHz): 7.52 (d, 1H, J=2.0 Hz), 7.17 (dd, 1H, J=2.0 and 8.5 Hz), 6.87 (d, 1H, J=8.5 Hz), 3.80 (s, 2H), 2.79-2.74 (m, 2H), 1.76-1.63 (m, 1H), 1.54 (q, 2H, J=6.8 Hz), 0.99 (d, 6H, J=6.56 Hz). 13C-NMR (CD3OD, 300 MHz): 158.6, 134.9, 130.7, 128.6, 118.8, 112.7, 53.3, 47.9, 38.6, 27.8, 23.3.

reactant | 3-Bromo-4-hydroxy-benzaldehyde | 7.5 mmol, 1.5 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | 3-methylbutylamine | 7.5 mmol, 867 μL | CC(CCN)C | C5H13N
reactant | NaBH4 | 37.3 mmol, 1.4 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 25 mL | CO | CH4O
product | 2-Bromo-4-[(3-methyl-butylamino)-methyl]-phenol | 1.5 g, 75% | BrC1=C(C=CC(=C1)CNCCC(C)C)O | C12H18BrNO
